US07109357B2
A mixture of 4-azido-5-ethoxy-5H-furan-2-one (0.62 g, 3.67 mmol) and 10% palladium on charcoal (0.31 g) in de-oxygenated ethyl acetate (20 mL) was stirred at 1 atm hydrogen for 24 h. The reaction was filtered (Celite) and evaporated to provide 4-amino-5-ethoxy-5H-furan -2-one (0.53 g, 100% yield) as a yellow oil. 1H-NMR (500 MHz, CDCl3) δ 5.60 (s, 1H), 4.85 (br s, 2H), 4.81 (s, 1H), 3.81 (m, 1H), 3.67 (m, 1H), 1.22 (t, J=7.1 Hz, 3H) ppm.

reactant | 4-azido-5-ethoxy-5H-furan-2-one | 3.67 mmol, 0.62 g | N(=[N+]=[N-])C1=CC(OC1OCC)=O | C6H7N3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.31 g | [Pd] | Pd
product | 4-amino-5-ethoxy-5H-furan -2-one | 0.53 g, 100% yield | NC1=CC(OC1OCC)=O | C6H9NO3
